US07652064B2
Reflux 3-hydroxy-4-iodo-benzoic acid (38 g, 144 mmol) and saturated solution of HCl in ethanol (600 mL) overnight. Evaporate the solvent yielding 42 g, 99% of 3-hydroxy -4-iodo-benzoic acid ethyl ester. 1H NMR (300 MHz, CDCl3): δ 1.39 (t, J=7.1 Hz, 3H), 4.36 (q, J=7.1 Hz, 2H), 7.33 (dd, J=8.3 and 2.0 Hz, 1H), 7.64 (d, J=2.0 Hz, 1H), 7.75 (d, J=8.3 Hz, 1H). Add ethyl iodide (33.8 g, 216 mmol) to a solution of 3-hydroxy -4-iodo-benzoic acid ethyl ester (42 g, 144 mmol) and K2CO3 (39.9 g, 288 mmol) in acetonitrile (400 mL) under magnetic stirring. Heat the reaction mixture at 65° C. for 2 hours, allow the mixture to cool and maintain at RT overnight. Evaporate the solvent and add ethyl acetate to the crude. Filter the solid through Celite® and evaporate the solvent. Yield 42 g, 96%. 1H NMR (300 MHz, CDCl3): δ 1.39 (t, J=7.1 Hz, 3H), 1.50 (t, J=7.0 Hz, 3H), 4.16 (q, J=7.0 Hz, 2H), 4.37 (q, J=7.1 Hz, 2H), 7.36 (dd, J=8.1 and 1.8 Hz, 1H), 7.42 (d, J=1.8 Hz, 1H), 7.84 (d, J=8.1 Hz, 1H).

reactant | 3-hydroxy-4-iodo-benzoic acid | 144 mmol, 38 g | OC=1C=C(C(=O)O)C=CC1I | C7H5IO3
reactant | HCl | Cl | ClH
reactant | ethanol | 600 mL | C(C)O | C2H6O
product | 3-hydroxy -4-iodo-benzoic acid ethyl ester | 42 g, 99% | C(C)OC(C1=CC(=C(C=C1)I)O)=O | C9H9IO3
